US07951804B2
1 g (5 mmol) of (R)-(2-chlorophenyl)hydroxyacetic acid are dissolved in 10 ml of dichloromethane, and 0.77 g (5 mmol) of 4-chlorophenyl isocyanate and 50 mg of dibutyltin dilaurate are added successively, and the mixture is stirred for 16 hours. Conventional work-up gives 1.5 g of (R)-(2-chlorophenyl)(4-chlorophenylcarbamoyloxy)acetic acid.

reactant | (R)-(2-chlorophenyl)hydroxyacetic acid | 5 mmol, 1 g | ClC1=C(C=CC=C1)[C@H](C(=O)O)O | C8H7ClO3
reactant | 4-chlorophenyl isocyanate | 5 mmol, 0.77 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | dibutyltin dilaurate | 50 mg | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | (R)-(2-chlorophenyl)(4-chlorophenylcarbamoyloxy)acetic acid | 1.5 g | ClC1=C(C=CC=C1)[C@H](C(=O)O)OC(NC1=CC=C(C=C1)Cl)=O | C15H11Cl2NO4
